US09126970B2
Step c): 7-{10-(4,6-Diphenyl-1,3,5-triazin-2-yl)-12,12-dimethyl-10,12-dihydro-10-azaindeno[2,1-b]fluorenyl}-12,12-dimethyl-10-phenyl-10,12-dihydro-10-azaindeno[2,1-b]fluorene
21.0 g (26 mmol) of 7-{10-(4,6-diphenyl-1,3,5-triazin-2-yl)-12,12-dimethyl-10,12-dihydro-10-azaindeno[2,1-b]fluorenyl}-12,12-dimethyl-10,12-dihydro-10-azaindeno[2,1-b]fluorene, 2.8 g (27 mmol) of bromobenzene and 6.8 g (71 mmol) of NaOtBu are suspended in 1000 ml of p-xylene. 0.11 g (0.5 mmol) of Pd(OAc)2 and 0.33 ml of a 1 M tri-tert-butylphosphine solution are added to this suspension. The reaction mixture is heated under reflux for 16 h. After cooling, the organic phase is separated off, washed three times with 100 ml of water and subsequently evaporated to dryness. The residue is extracted with hot toluene, recrystallised from toluene and finally sublimed in a high vacuum. The yield is 15.3 g (18 mmol, 66.5%).

reactant | 7-{10-(4,6-diphenyl-1,3,5-triazin-2-yl)-12,12-dimethyl-10,12-dihydro-10-azaindeno[2,1-b]fluorenyl}-12,12-dimethyl-10,12-dihydro-10-azaindeno[2,1-b]fluorene | 26 mmol, 21.0 g | C1(=CC=CC=C1)C1=NC(=NC(=N1)C1=CC=CC=C1)N1C2=CC=CC=C2C=2C=C3C(=CC12)C(C1=C(C=CC=C13)C=1C=C3C=2C=C4C(=CC2NC3=CC1)C(C1=CC=CC=C14)(C)C)(C)C | C57H41N5
reactant | bromobenzene | 27 mmol, 2.8 g | BrC1=CC=CC=C1 | C6H5Br
reactant | NaOtBu | 71 mmol, 6.8 g | CC(C)(C)[O-].[Na+]
reactant | tri-tert-butylphosphine | 1 M | C(C)(C)(C)P(C(C)(C)C)C(C)(C)C | C12H27P
solvent | p-xylene | 1000 ml | CC=1C=CC(=CC1)C | C8H10
catalyst | Pd(OAc)2 | 0.5 mmol, 0.11 g | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | 7-{10-(4,6-Diphenyl-1,3,5-triazin-2-yl)-12,12-dimethyl-10,12-dihydro-10-azaindeno[2,1-b]fluorenyl}-12,12-dimethyl-10-phenyl-10,12-dihydro-10-azaindeno[2,1-b]fluorene | C1(=CC=CC=C1)C1=NC(=NC(=N1)C1=CC=CC=C1)N1C2=CC=CC=C2C=2C=C3C(=CC12)C(C1=C(C=CC=C13)C=1C=C3C=2C=C4C(=CC2N(C3=CC1)C1=CC=CC=C1)C(C1=CC=CC=C14)(C)C)(C)C | C63H45N5
